2199-02-24 08:20:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 73 yo male with small cell lung cancer s/p
   chemo/radiation in [**Month (only) 60**]/[**2198-5-13**], CHF EF45% s/p ICD for primary
   prevention, COPD on prednisone who presents in respiratory distress.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-2-23**] 06:10 PM
 INDWELLING PORT (PORTACATH) - START [**2199-2-23**] 06:10 PM
   double lumen
 EKG - At [**2199-2-23**] 07:51 PM
   - At MN pt vomited
 given zofran/morphine/ativan  and improved
   - Around 4am pt
s 02 sat dropped to 90%,  Lasix 20 IV x1 was given and
   pt
s 02 sat returned to high 90s
   -  At 5am abg was obtained showing 7.23/64/83 and pt
s pressure support
   was increased from 8 to 10, w/ same fio2 80% and peep 8.
   - At 6am pt
s ABG continued to show acute resp acidosis. Decision was
   made to intubate. Wife spoke w/ pt over phone prior to intubating, but
   when CPAP was taken off pt
s 02 sats decreased abruptly to low 80s. 02
   sat was rose w/ mask back on. Pt was intubated around 7:30am
   - Pt
s BP dropped to 84/44 s/p intubation- given 250cc bolus x2, and
   dropped to 60s, another 500cc were given. Levophed was started at 0.1.
   - Nurse suction small amounts of bright red blood
s heparin gtt
   was stopped
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,400 units/hour
   Other ICU medications:
   Heparin Sodium - [**2199-2-23**] 06:38 PM
   Lorazepam (Ativan) - [**2199-2-24**] 12:15 AM
   Morphine Sulfate - [**2199-2-24**] 12:15 AM
   Furosemide (Lasix) - [**2199-2-24**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-24**] 08:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 121 (115 - 143) bpm
   BP: 146/66(85) {119/48(68) - 201/94(117)} mmHg
   RR: 24 (18 - 30) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    204 mL
                                                                    260 mL
   PO:
             TF:
   IVF:
                                                                    204 mL
                                                                    260 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    340 mL
   Urine:
                                                                  1,060 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -856 mL
                                                                    -80 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.22/66/81.[**Numeric Identifier 607**]/26/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 81
   Physical Examination
   GENERAL: thin, pale eldery male, intubated
   HEENT: MMM
   CARDIAC: tachycardic, unable to hear cardiac sounds well over rhonchi
   LUNGS: clearer breath sounds than before, continues to have rales,
   rhonchi
   CHEST: port in right upper chest
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: No edema or calf pain, 2+ dorsalis pedis/ posterior tibial
   pulses.
   SKIN: exfoliative petecial rash on soles of his feet
   NEURO: sedated
   Labs / Radiology
   93 K/uL
   9.5 g/dL
   142 mg/dL
   1.8 mg/dL
   26 mEq/L
   5.0 mEq/L
   39 mg/dL
   103 mEq/L
   139 mEq/L
   29.9 %
   28.5 K/uL
        [image002.jpg]
                             [**2199-2-23**]  06:04 PM
                             [**2199-2-24**]  04:57 AM
                             [**2199-2-24**]  05:33 AM
                             [**2199-2-24**]  06:49 AM
   WBC
   28.5
   Hct
   29.9
   Plt
   93
   Cr
   1.8
   TCO2
   26
   28
   28
   Glucose
   142
   Other labs: PT / PTT / INR:13.9/53.4/1.2, Lactic Acid:1.5 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
   73 yo male with small cell lung cancer s/p chemo/radiation in [**Month (only) 60**]/[**Month (only) 2605**]
   [**2197**], CHF EF45% s/p ICD for primary prevention, COPD on prednisone who
   presents in respiratory distress.
   .
   # Hypercapneic respiratory failure
s newest CXR shows complete R
   lung collapse w/ caused hypoxia and inc RR.
   - intubated
 ET tube 8cm above carina
 will reposition and obtain f/u
   CXR
   - on AC
 currently Vt 600, fi02 100%, peep 8, RR 22
   - OG tube placed for meds
 need f/u CXR
   # Pulmonary Infiltrates- likely PNA vs. lyphangetic spread of SCLC.
   Pt
s CXR this AM shows an interval worsening of the widespread
   parenchymal opacities in LUL, lingula and LLL (and R lung collapse).
   Also pt
s WBC now 28.5 from 7.1.  Pt
s CT scan from when pt had PET
   scan and current CT show minimal change in R lung (prior to this
   morning), and it is less likely that the new infiltrates on L are
   solely due to pt
s SCLC. Overnight w/ pt
s dyspnea and h/o malignancy
   pt
s Well
s score calculated pt to have moderate to high risk of PE and
   was started on heparin. Currently heparin stopped as PNA and
   infiltrates much more likely cause of pt
s respiratory distress. Also
   CHF considered given 2L given in ED, Lasix helped some, but likely [**1-14**]
   and not primary cause. Also COPD may be contributing, but again not
   primary cause.
   - continue current abx Vanc/Cefepime/Levofloxacin
   - sputum cx
   - f/u glucan/ galactomannan
   - f/u urine legionella
   - D/c heparin
   # CHF - EF 40% and has become volume overloaded in the past. It may be
   that holding his lasix overnight, holding BB and given fluids may have
   contributed. Pt received Lasix 80 IV x1, and later 20 IV x1 currently
   neg 800ml.
   - hold off on further Lasix for now
   # COPD
   #. Respiratory Distress: Patient with labored breathing but no hypoxia
   or hypercarbia on ABG. Diff dx includes worsening CA, PNA, CHF and PE.
   CT does show worsening spread of small cell lung CA and areas of likely
   infiltrate.. He is already being treated for PNA. [**Doctor Last Name 1808**] criteria ranges
   from moderate to high probablity (20-60% likelihood) of PE. He is
   currently too unstable for CTA and as he does not have brain mets, I
   will start a heparin drip for empiric anticoagulation with the hope
   that he will improve tomorrow and be able to tolerate a CTA then.
   - lasix 80mg IV given
   - restart BB when able to give PO's
   - cont Vanc, Cefepime, Levofloxacin
   - start heparin drip
   - BiPap
   - cont albuterol/ipratropium
   - legionella UA, sputum cultures, viral/flu swab
   - cont bactrim
   .
   #. Tachycardia: Currently in sinus tachycardia but has Hx afib and VT
   s/p ICD placement. Digoxin level was slightly elevated on admission so
   dose was reduced. In addition, beta blocker was held for concern for
   infection. [**Month (only) **] digoxin and holding the BB may be contributing to
   tachycardia. However, it is likely that pulm HTN, CA, anxiety,
   respiratory distress and underlying infection are driving the sinus
   tachycardia. In addition, in a patient with CA, PE is always possible.
   There has been no hypotension to suggest sepsis.
   - continue digoxin at 0.125mg IV
   - obtain repeat EKG
   - restart BB
   .
   # Small Cell Lung Cancer: Seen recently by Dr. [**Last Name (STitle) 8432**] who notes that the
   stage of his disease is unclear. His new fingings on CT scan are
   certainly concerning for worsening disease.
   - will follow up with oncology team regarding potential treatment
   options
   .
   # History of Ventricular Tachycardia: Is s/p ICD placement.
   - restart BB
   .
   #Hyperlipidemia:
   -  cont statin
   .
   #COPD: Has oxygen at home for dyspnea but has not been using it
   recently. Followed by Dr. [**Last Name (STitle) 612**] with known obstructive defect. Has
   recently been on steroids without significant improvement in symptoms
   and is being tapered.
   - Continue Combivent prn
   - cont bactrim
   - cont prednisone 20mg
   .
   #Depression: continue citalopram
   .
   #Gout: continue allopurinol
   .
   #FEN: NPO for BiPap
   .
   #PPX:
   - DVT ppx: on heparin
   - PPI
   .
   ACCESS: PIV's
   .
   CODE STATUS: full
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 2445**] [**Known lastname **]
   .
   DISPOSITION: ICU
   .
   .
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2199-2-23**] 06:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2199-02-24 08:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2199-2-23**] 06:10 PM
 INDWELLING PORT (PORTACATH) - START [**2199-2-23**] 06:10 PM
   double lumen
 EKG - At [**2199-2-23**] 07:51 PM
   ERROR,
   SEE OTHER NOTE FROM [**2-24**]
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2199-2-23**] 06:38 PM
   Lorazepam (Ativan) - [**2199-2-24**] 12:15 AM
   Morphine Sulfate - [**2199-2-24**] 12:15 AM
   Furosemide (Lasix) - [**2199-2-24**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-24**] 08:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 35.7
C (96.3
   HR: 108 (108 - 143) bpm
   BP: 68/42(49) {68/42(49) - 201/94(117)} mmHg
   RR: 22 (18 - 30) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                    204 mL
                                                                  1,265 mL
   PO:
             TF:
   IVF:
                                                                    204 mL
                                                                  1,265 mL
   Blood products:
   Total out:
                                                                  1,060 mL
                                                                    340 mL
   Urine:
                                                                  1,060 mL
                                                                    340 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -856 mL
                                                                    925 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 550 (550 - 550) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 100%
   PIP: 31 cmH2O
   Plateau: 26 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 100%
   ABG: 7.22/66/81.[**Numeric Identifier 607**]/26/-2
   Ve: 15.4 L/min
   PaO2 / FiO2: 81
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   9.5 g/dL
   142 mg/dL
   1.8 mg/dL
   26 mEq/L
   5.0 mEq/L
   39 mg/dL
   103 mEq/L
   139 mEq/L
   29.9 %
   28.5 K/uL
        [image002.jpg]
                             [**2199-2-23**]  06:04 PM
                             [**2199-2-24**]  04:57 AM
                             [**2199-2-24**]  05:33 AM
                             [**2199-2-24**]  06:49 AM
   WBC
   28.5
   Hct
   29.9
   Plt
   93
   Cr
   1.8
   TCO2
   26
   28
   28
   Glucose
   142
   Other labs: PT / PTT / INR:13.9/53.4/1.2, Lactic Acid:1.5 mmol/L,
   Ca++:8.5 mg/dL, Mg++:1.9 mg/dL, PO4:6.6 mg/dL
   Assessment and Plan
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, CHRONIC
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2199-2-23**] 06:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-02-25 07:00:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 73 yo male with small cell lung cancer s/p
   chemo/radiation in [**Month (only) 60**]/[**2198-5-13**], CHF EF45% s/p ICD for primary
   prevention, COPD on prednisone who presents in respiratory distress.
   24 Hour Events:
 EKG - At [**2199-2-24**] 09:30 AM
 ARTERIAL LINE - START [**2199-2-24**] 08:30 PM
   - intubated
   - started on pressors
   - A-line placed
   - received several 500cc bolus NS for hypotension, U/o<30
   - overnight hct droppedfrom 29 to 21: ordered for one unit pRBCs
   - pt
s abg overnight 7.29 / 48 / 65 so pt
s Fi02 returned to 100%
   - This AM pt became hypotensive off levophed, and required 500cc bolus,
   then restarted on levophed 0.2
   - as of 10am pt stopped levophed
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2199-2-24**] 03:31 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-25**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.1
C (97
   HR: 122 (97 - 123) bpm
   BP: 107/53(69) {77/45(-11) - 119/55(318)} mmHg
   RR: 22 (18 - 28) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 68 Inch
             Total In:
                                                                  6,072 mL
                                                                    931 mL
   PO:
             TF:
                                                                    110 mL
                                                                    213 mL
   IVF:
                                                                  5,902 mL
                                                                    718 mL
   Blood products:
   Total out:
                                                                    736 mL
                                                                    223 mL
   Urine:
                                                                    736 mL
                                                                    223 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,336 mL
                                                                    708 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 65%
   RSBI Deferred: FiO2 > 60%
   PIP: 32 cmH2O
   Plateau: 25 cmH2O
   Compliance: 35.3 cmH2O/mL
   SpO2: 93%
   ABG: 7.29/46/65/23/-4
   Ve: 15.2 L/min
   PaO2 / FiO2: 65
   Physical Examination
   GENERAL: thin, pale eldery male, intubated
   HEENT: MMM
   CARDIAC: tachycardic, unable to hear cardiac sounds well over rhonchi
   LUNGS: clearer breath sounds than before, continues to have rales,
   rhonchi
   CHEST: port in right upper chest
   ABDOMEN: NABS. Soft, NT, ND.  No HSM
   EXTREMITIES: 1+ LE edema
   SKIN: exfoliative petecial rash on soles of his feet
   NEURO: sedated
   Labs / Radiology
   56 K/uL
   6.6 g/dL
   112 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.8 mEq/L
   52 mg/dL
   110 mEq/L
   139 mEq/L
   21.0 %
   8.1 K/uL
        [image002.jpg]
                             [**2199-2-24**]  04:57 AM
                             [**2199-2-24**]  05:33 AM
                             [**2199-2-24**]  06:49 AM
                             [**2199-2-24**]  12:42 PM
                             [**2199-2-24**]  08:49 PM
                             [**2199-2-24**]  10:08 PM
                             [**2199-2-25**]  12:05 AM
                             [**2199-2-25**]  03:14 AM
                             [**2199-2-25**]  04:59 AM
                             [**2199-2-25**]  06:36 AM
   WBC
   28.5
   8.1
   Hct
   29.9
   20.5
   21.0
   Plt
   93
   56
   Cr
   1.8
   2.2
   TCO2
   28
   28
   27
   25
   24
   25
   23
   Glucose
   142
   112
   Other labs: PT / PTT / INR:13.9/53.4/1.2, ALT / AST:21/15, Alk Phos / T
   Bili:72/0.3, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:41.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:148 IU/L, Ca++:7.8
   mg/dL, Mg++:2.0 mg/dL, PO4:5.4 mg/dL
   Assessment and Plan
   73 yo male with small cell lung cancer s/p chemo/radiation in [**Month (only) 60**]/[**Month (only) 2605**]
   [**2197**], CHF EF45% s/p ICD for primary prevention, COPD on prednisone who
   presents in respiratory distress.
   .
   # Hypercapneic respiratory failure
CXR shows complete R lung collapse
   w/ caused hypoxia and inc RR.  Likely has shunt physiology.
   - intubated
 ET tube 5cm above carina
 will reposition and obtain f/u
   CXR
   - on AC
 currently Vt 600, fi02 100%, peep 8, RR 22
   # Pulmonary Infiltrates- likely PNA vs. lyphangetic spread of SCLC.
   Pt
s CXR this AM shows an interval worsening of the widespread
   parenchymal opacities in LUL, lingula and LLL (and R lung collapse).
   Also pt
s WBC now 28.5 from 7.1.  Pt
s CT scan from when pt had PET
   scan and current CT show minimal change in R lung (prior to this
   morning), and it is less likely that the new infiltrates on L are
   solely due to pt
s SCLC. Overnight w/ pt
s dyspnea and h/o malignancy
   pt
s Well
s score calculated pt to have moderate to high risk of PE
   (too unstable to get CTA overnight) and was started on heparin.
   Currently heparin stopped as PNA and infiltrates much more likely cause
   of pt
s respiratory distress. Also CHF considered given 2L given in ED,
   Lasix helped some, but likely [**1-14**] and not primary cause. Also COPD may
   be contributing, but again not primary cause.
   - continue current abx Vanc/Cefepime/Levofloxacin day # 3
   - sputum cx
   - f/u glucan/ galactomannan
   - f/u urine legionella
   - f/u viral/flu swab
   - D/c heparin
   - hold off on CTA w/ other explanations
   # [**Name (NI) 7164**] pt
s hct dropped from 29 to 21. Pt may have alveolar
   hemorrhage in R lung, pt did have blood suctioned prior to heparin gtt
   was shut off. Pt received 1 unit today
   - [**Hospital1 **] hct checks
   - guaic stools
   - may need CT abd if continues to drop
   # Hypotension
 occurred originally in the setting of intubation.
   Intubation may have caused increased intrathoracic pressure or may have
   been [**1-14**] sedatives.  Pt has no autopeep currently. Also not likely
   volume depleted currently.
   - continue IVF prn
   - may need to restart levophed
   # ARF
 rising Cr now 2.2. pre-renal [**1-14**] CHF vs. ATN
   - will check urine lytes
   - consider Renal US if lytes unrevealing
   # CHF - EF 40% Pt total body overloaded w/ 5L + overnight,
   - hold off on further Lasix for now given hypotension and need for IVF
   boluses.
   #COPD: Has oxygen at home for dyspnea but has not been using it
   recently. Followed by Dr. [**Last Name (STitle) 612**] with known obstructive defect. Has
   recently been on steroids without significant improvement in symptoms
   and is being tapered.
   - Continue Combivent prn
   - will convert prednisone 40mg to IV hydrocortisone
   - cont albuterol/ipratropium
   .
   #. Tachycardia: Currently in sinus tachycardia but has Hx afib and VT
   s/p ICD placement. Digoxin level was slightly elevated on admission so
   dose was reduced. In addition, beta blocker was held for concern for
   infection. [**Month (only) **] digoxin and holding the BB may be contributing to
   tachycardia. However, it is likely that pulm HTN, CA, anxiety,
   respiratory distress and underlying infection are driving the sinus
   tachycardia. In addition, in a patient with CA, PE is always possible.
   There has been no hypotension to suggest sepsis. Repeat EKG showed ST
   dep will moniter.
   - continue digoxin at 0.125mg IV
   - hold BB
   .
   # Thrombocytopenia- will transfuse when < 50 since critical status.
   # Small Cell Lung Cancer: Seen recently by Dr. [**Last Name (STitle) 8432**] who notes that the
   stage of his disease is unclear. His new fingings on CT scan are
   certainly concerning for worsening disease.
   - will follow up with oncology team regarding potential treatment
   options
   # Rash
 exfoliative erythematous rash at feet w/ petichae on
   soles/lower legs and hands
   - will defer consulting derm for now
   .
   #  History of Ventricular Tachycardia: Is s/p ICD placement. - restart
   BB
   #  Depression: continue citalopram
   #  HL- cont statin
   #  Gout: continue allopurinol
   .
   #FEN: NPO for BiPap
   .
   #PPX:
   - PCP
 on bactrim
   - DVT on SQH
   - GI- on PPI
 protinx IV q12
   .
   ACCESS: Port, PIV, A-line
   .
   CODE STATUS: FULL CODE
   .
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 2445**] [**Known lastname **]
   .
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2199-2-24**] 04:30 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2199-2-23**] 06:10 PM
   20 Gauge - [**2199-2-24**] 11:00 AM
   Arterial Line - [**2199-2-24**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-02-26 07:43:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 73 yo male with small cell lung cancer s/p
   chemo/radiation in [**Month (only) 60**]/[**2198-5-13**], CHF EF45% s/p ICD for primary
   prevention, COPD on prednisone who presents in respiratory distress.
   24 Hour Events:
   - Made DNR/DNI per wife. ICD turned off with magnet
   - Worsening hypoxia and new "infiltrate" concerning for pulmonary
   hemorrhage. Hct trending down. transfused 1U pRBCs and 1U plts.
   - recheck Hct 23.8->1U-> 24.1; Plt 48->1U->66
   - urine lytes, sediment and UA pending
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-2-25**] 08:15 AM
   Bactrim (SMX/TMP) - [**2199-2-25**] 08:36 AM
   Levofloxacin - [**2199-2-25**] 02:30 PM
   Cefipime - [**2199-2-25**] 04:52 PM
   Infusions:
   Midazolam (Versed) - 6 mg/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2199-2-26**] 06:00 AM
   Fentanyl - [**2199-2-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2199-2-26**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.3
   HR: 128 (97 - 128) bpm
   BP: 117/62(78) {104/50(66) - 139/68(89)} mmHg
   RR: 24 (20 - 26) insp/min
   SpO2: 88%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 75.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,764 mL
                                                                    159 mL
   PO:
             TF:
                                                                    756 mL
   IVF:
                                                                  1,928 mL
                                                                    159 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    967 mL
                                                                    380 mL
   Urine:
                                                                    967 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,797 mL
                                                                   -221 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 37 cmH2O
   Plateau: 29 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 88%
   ABG: 7.32/45/62/23/-3
   Ve: 16.5 L/min
   PaO2 / FiO2: 62
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   64 K/uL
   8.8 g/dL
   103 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.9 mEq/L
   62 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2199-2-24**]  10:08 PM
                             [**2199-2-25**]  12:05 AM
                             [**2199-2-25**]  03:14 AM
                             [**2199-2-25**]  04:59 AM
                             [**2199-2-25**]  06:36 AM
                             [**2199-2-25**]  02:07 PM
                             [**2199-2-25**]  05:57 PM
                             [**2199-2-25**]  08:58 PM
                             [**2199-2-26**]  04:08 AM
                             [**2199-2-26**]  04:33 AM
   WBC
   8.1
   8.1
   7.9
   9.6
   Hct
   20.5
   21.0
   23.8
   24.1
   26.2
   Plt
   56
   48
   66
   64
   Cr
   2.2
   2.2
   2.2
   TCO2
   24
   25
   23
   23
   24
   Glucose
   112
   109
   117
   103
   Other labs: PT / PTT / INR:13.8/25.8/1.2, ALT / AST:21/15, Alk Phos / T
   Bili:72/0.3, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:41.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, LDH:148 IU/L, Ca++:8.5
   mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 INEFFECTIVE COPING
 RESPIRATORY FAILURE, CHRONIC
   73 yo male with small cell lung cancer s/p chemo/radiation in [**Month (only) 60**]/[**Month (only) 2605**]
   [**2197**], CHF EF45% s/p ICD for primary prevention, COPD on prednisone who
   presents in respiratory distress.
   # Hypercapneic respiratory failure
CXR shows complete R lung collapse
   w/ caused hypoxia and inc RR.  Likely has shunt physiology.
   - intubated
 ET tube 5cm above carina
 will reposition and obtain f/u
   CXR
   - on AC
 currently Vt 600, fi02 100%, peep 8, RR 22
   # Pulmonary Infiltrates- likely PNA vs. lyphangetic spread of SCLC.
   Pt
s CXR this AM shows an interval worsening of the widespread
   parenchymal opacities in LUL, lingula and LLL (and R lung collapse).
   Also pt
s WBC now 28.5 from 7.1.  Pt
s CT scan from when pt had PET
   scan and current CT show minimal change in R lung (prior to this
   morning), and it is less likely that the new infiltrates on L are
   solely due to pt
s SCLC. Overnight w/ pt
s dyspnea and h/o malignancy
   pt
s Well
s score calculated pt to have moderate to high risk of PE
   (too unstable to get CTA overnight) and was started on heparin.
   Currently heparin stopped as PNA and infiltrates much more likely cause
   of pt
s respiratory distress. Also CHF considered given 2L given in ED,
   Lasix helped some, but likely [**1-14**] and not primary cause. Also COPD may
   be contributing, but again not primary cause.
   - continue current abx Vanc/Cefepime/Levofloxacin day # 3
   - sputum cx
   - f/u glucan/ galactomannan
   - f/u urine legionella
   - f/u viral/flu swab
   - D/c heparin
   - hold off on CTA w/ other explanations
   # [**Name (NI) 7164**] pt
s hct dropped from 29 to 21. Pt may have alveolar
   hemorrhage in R lung, pt did have blood suctioned prior to heparin gtt
   was shut off. Pt received 1 unit today
   - [**Hospital1 **] hct checks
   - guaic stools
   - may need CT abd if continues to drop
   # Hypotension
 occurred originally in the setting of intubation.
   Intubation may have caused increased intrathoracic pressure or may have
   been [**1-14**] sedatives.  Pt has no autopeep currently. Also not likely
   volume depleted currently.
   - continue IVF prn
   - may need to restart levophed
   # ARF
 rising Cr now 2.2. pre-renal [**1-14**] CHF vs. ATN
   - will check urine lytes
   - consider Renal US if lytes unrevealing
   # CHF - EF 40% Pt total body overloaded w/ 5L + overnight,
   - hold off on further Lasix for now given hypotension and need for IVF
   boluses.
   #COPD: Has oxygen at home for dyspnea but has not been using it
   recently. Followed by Dr. [**Last Name (STitle) 612**] with known obstructive defect. Has
   recently been on steroids without significant improvement in symptoms
   and is being tapered.
   - Continue Combivent prn
   - will convert prednisone 40mg to IV hydrocortisone
   - cont albuterol/ipratropium
   #. Tachycardia: Currently in sinus tachycardia but has Hx afib and VT
   s/p ICD placement. Digoxin level was slightly elevated on admission so
   dose was reduced. In addition, beta blocker was held for concern for
   infection. [**Month (only) **] digoxin and holding the BB may be contributing to
   tachycardia. However, it is likely that pulm HTN, CA, anxiety,
   respiratory distress and underlying infection are driving the sinus
   tachycardia. In addition, in a patient with CA, PE is always possible.
   There has been no hypotension to suggest sepsis. Repeat EKG showed ST
   dep will moniter.
   - continue digoxin at 0.125mg IV
   - hold BB
   # Thrombocytopenia- will transfuse when < 50 since critical status.
   # Small Cell Lung Cancer: Seen recently by Dr. [**Last Name (STitle) 8432**] who notes that the
   stage of his disease is unclear. His new fingings on CT scan are
   certainly concerning for worsening disease.
   - will follow up with oncology team regarding potential treatment
   options
    # Rash
 exfoliative erythematous rash at feet w/ petichae on
   soles/lower legs and hands
   - will defer consulting derm for now
   #  History of Ventricular Tachycardia: Is s/p ICD placement. - restart
   BB
   #  Depression: continue citalopram
   #  HL- cont statin
   #  Gout: continue allopurinol
   #FEN: NPO for BiPap
   #PPX:
   - PCP
 on bactrim
   - DVT on SQH
   - GI- on PPI
 protinx IV q12
   ACCESS: Port, PIV, A-line
   CODE STATUS: FULL CODE
   EMERGENCY CONTACT: [**First Name8 (NamePattern2) 2445**] [**Known lastname **]
   DISPOSITION: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2199-2-23**] 06:10 PM
   20 Gauge - [**2199-2-24**] 11:00 AM
   Arterial Line - [**2199-2-24**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2199-02-26 09:30:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   HPI:
   73M with SCLC p/w pulmonary hemorrage and resp failure.
   24 Hour Events:
   Pt made DNR after family meeting yesterday.
   Increasing hypoxemia overnight with O2 sats in 80s on 100% FiO2 and
   increased PEEP.
   Continue blood secretions.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2199-2-25**] 08:15 AM
   Bactrim (SMX/TMP) - [**2199-2-25**] 08:36 AM
   Levofloxacin - [**2199-2-25**] 02:30 PM
   Cefipime - [**2199-2-25**] 04:52 PM
   Infusions:
   Midazolam (Versed) - 7 mg/hour
   Fentanyl - 135 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2199-2-26**] 07:50 AM
   Midazolam (Versed) - [**2199-2-26**] 08:10 AM
   Fentanyl - [**2199-2-26**] 08:10 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Cardiovascular: Tachycardia
   Nutritional Support: NPO
   Respiratory: Dyspnea
   Genitourinary: Foley
   Pain: Unable to answer
   Flowsheet Data as of  [**2199-2-26**] 09:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 136 (110 - 136) bpm
   BP: 110/62(76) {104/50(66) - 139/68(89)} mmHg
   RR: 24 (20 - 26) insp/min
   SpO2: 83%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82.4 kg (admission): 75.3 kg
   Height: 68 Inch
             Total In:
                                                                  3,764 mL
                                                                    257 mL
   PO:
             TF:
                                                                    756 mL
   IVF:
                                                                  1,928 mL
                                                                    207 mL
   Blood products:
                                                                  1,000 mL
   Total out:
                                                                    967 mL
                                                                    418 mL
   Urine:
                                                                    967 mL
                                                                    418 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,797 mL
                                                                   -161 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 100%
   RSBI Deferred: FiO2 > 60%
   PIP: 44 cmH2O
   Plateau: 29 cmH2O
   Compliance: 28.6 cmH2O/mL
   SpO2: 83%
   ABG: 7.32/45/62/23/-3
   Ve: 16.4 L/min
   PaO2 / FiO2: 62
   Physical Examination
   General Appearance: agonal breathing
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: Crackles : left, Bronchial: right)
   Extremities: Right: 1+, Left: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Non -purposeful,
   Sedated, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   64 K/uL
   103 mg/dL
   2.2 mg/dL
   23 mEq/L
   4.9 mEq/L
   62 mg/dL
   114 mEq/L
   145 mEq/L
   26.2 %
   9.6 K/uL
        [image002.jpg]
                             [**2199-2-24**]  10:08 PM
                             [**2199-2-25**]  12:05 AM
                             [**2199-2-25**]  03:14 AM
                             [**2199-2-25**]  04:59 AM
                             [**2199-2-25**]  06:36 AM
                             [**2199-2-25**]  02:07 PM
                             [**2199-2-25**]  05:57 PM
                             [**2199-2-25**]  08:58 PM
                             [**2199-2-26**]  04:08 AM
                             [**2199-2-26**]  04:33 AM
   WBC
   8.1
   8.1
   7.9
   9.6
   Hct
   20.5
   21.0
   23.8
   24.1
   26.2
   Plt
   56
   48
   66
   64
   Cr
   2.2
   2.2
   2.2
   TCO2
   24
   25
   23
   23
   24
   Glucose
   112
   109
   117
   103
   Other labs: PT / PTT / INR:13.8/25.8/1.2, ALT / AST:21/15, Alk Phos / T
   Bili:72/0.3, Differential-Neuts:53.0 %, Band:0.0 %, Lymph:6.0 %,
   Mono:41.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, LDH:148 IU/L, Ca++:8.5
   mg/dL, Mg++:2.3 mg/dL, PO4:4.5 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
   --Most likely cause is pulmonary hemorrhage secondary to tumor.
   His oxygenation continues to worsen on maximal support.
   --Continue empiric antibiotics
   Prognosis is extremely poor.  Avoid IVF unless hypotensive to prevent
   additional insult from pulmonary edema.
   >Anemia:
   Hct is stable this AM.  Most likely source of bleeding is in lungs.
   No further workup or transfusions currently.
   >Acute Renal Failure:
   creatine stable, urine output borderline at this point though appears
   improved.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Indwelling Port (PortaCath) - [**2199-2-23**] 06:10 PM
   20 Gauge - [**2199-2-24**] 11:00 AM
   Arterial Line - [**2199-2-24**] 08:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments: Family meeting with wife,
   niece, Dr. [**Last Name (STitle) 1051**] this morning.  Decision for no escalation of care
   and confirmed DNR status.
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 60 minutes
   Patient is critically ill